US05166153
A solution of 15 g of potassium tert.-butoxide in 45 ml of dimethyl sulfoxide is added, with stirring and with slight external cooling, to a solution of 25.2 g of 3-chlorophenoxyphenol in 40 ml of dimethyl sulfoxide; 1.5 g of 18-Crown-6 are added, a solution of 28.3 g of 2-methylsulfonyloxypropylcarbamic acid ethyl ester in 30 ml of dimethyl sulfoxide is added dropwise at 15° C. within a period of one hour, and then the mixture is stirred firstly at 20° C.-22° C. for 5 hours and then at +55° C. for 19 hours. After cooling, the reaction mixture is poured onto ice-water and extracted repeatedly with ether, the combined ether phases are washed with water, and the solvent is distilled off. The crude product is purified further by chromatography over silica gel (eluant: diethyl ether/hexane, 1:9), yielding 2-[4-(3-chlorophenoxy)phenoxy]-propylcarbamic acid ethyl ester in the form of a pale yellow, viscous oil, n20D : 1.5500.

reactant | potassium tert.-butoxide | 15 g | CC(C)([O-])C.[K+]
reactant | 3-chlorophenoxyphenol | 25.2 g | ClC=1C=C(OC2=C(C=CC=C2)O)C=CC1 | C12H9ClO2
reactant | 18-Crown-6 | 1.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-methylsulfonyloxypropylcarbamic acid ethyl ester | 28.3 g | C(C)OC(NCC(C)OS(=O)(=O)C)=O | C7H15NO5S
solvent | dimethyl sulfoxide | 45 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-[4-(3-chlorophenoxy)phenoxy]-propylcarbamic acid ethyl ester | C(C)OC(NCC(C)OC1=CC=C(C=C1)OC1=CC(=CC=C1)Cl)=O | C18H20ClNO4
